US07598377B2
6-methyl-8-(acetyl)-2-(4-pyridinyl)-4H-1-benzopyran-4-one
A mixture of 8-bromo-2-(4-pyridinyl)-6-methyl-4H-1-benzopyran-4-one (0.12 g, 0.36 mmol), n-butyl vinyl ether (0.047 ml, 0.36 mmol), triethylamine (0.050 ml, 0.36 mmol) in DMF (5 ml) was purged with N2 and then treated with PdCl2(dppf) (27 mg, 0.036 mmol). The mixture was heated to 90° C. overnight. The mixture was cooled to room temperature and treated with 1N aqueous HCl (30 ml) and stirring was continued overnight. The mixture was then diluted with water (50 ml), and lyophilized to dryness. The residue was eluted through a C8-HPLC column and the product isolated as an off-white solid (2.5 mg). The product was identical to that described above.

reactant | 8-bromo-2-(4-pyridinyl)-6-methyl-4H-1-benzopyran-4-one | 0.36 mmol, 0.12 g | BrC1=CC(=CC=2C(C=C(OC21)C2=CC=NC=C2)=O)C | C15H10BrNO2
reactant | n-butyl vinyl ether | 0.36 mmol, 0.047 ml | C(=C)OCCCC | C6H12O
reactant | triethylamine | 0.36 mmol, 0.050 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 30 ml | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
catalyst | PdCl2(dppf) | 0.036 mmol, 27 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-methyl-8-(acetyl)-2-(4-pyridinyl)-4H-1-benzopyran-4-one | 2.5 mg | CC=1C=C(C2=C(C(C=C(O2)C2=CC=NC=C2)=O)C1)C(C)=O | C17H13NO3
